US06951879B2
In analogy to example 3.1, 6-(4-Bromo-butoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene and 2-(methylamino)ethanol were converted to yield 2-({4-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-methyl-amino)-ethanol as colorless oil, MS: 374 (MH+).

reactant | 6-(4-Bromo-butoxy)-3-(4-fluoro-phenyl)-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC=C2C2=CC=C(C=C2)F)C1 | C18H16BrFOS
reactant | 2-(methylamino)ethanol | CNCCO | C3H9NO
product | 2-({4-[3-(4-Fluoro-phenyl)-benzo[b]thiophen-6-yloxy]-butyl}-methyl-amino)-ethanol | FC1=CC=C(C=C1)C=1C2=C(SC1)C=C(C=C2)OCCCCN(CCO)C | C21H24FNO2S
